US07491735B2
To a solution of 4-(4-bromobenzoyl)-piperidine-1-carboxylic acid tert-butyl ester (1.47 g, 4.00 mmol) in absolute EtOH (25 mL) was added NaBH4 (227 mg, 6.00 mmol). The mixture was stirred at room temperature for 2 hours. Standard work-up and purification gave 4-[(4-bromo-phenyl)-hydroxymethyl]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (1.480 g, 100%). 1H NMR (CDCl3) δ 1.07-1.27 (m, 2H), 1.62-1.72 (m, 1H), 1.88 (d, 1H, J=13.2 Hz), 2.35 (d, 1H, J=3.3 Hz), 2.50-2.65 (m, 2H), 4.04-4.13 (m, 2H), 4.33 (dd, 1H, J=7.2, 3.3 Hz), 7.16 (d, 2H, J=8.4 Hz), 7.45 (d, 2H, J=8.4 Hz).

reactant | 4-(4-bromobenzoyl)-piperidine-1-carboxylic acid tert-butyl ester | 4.00 mmol, 1.47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)Br)=O | C17H22BrNO3
reactant | NaBH4 | 6.00 mmol, 227 mg | [BH4-].[Na+]
solvent | EtOH | 25 mL | CCO | C2H6O
product | 4-[(4-bromo-phenyl)-hydroxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.480 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)C1=CC=C(C=C1)Br | C17H24BrNO3
